US07262212B2
Potassium tert-butoxide (3.5 g, 31.2 mmol) was gradually added to a mixture of methyltriphenylphosphonium bromide (11 g, 30.8 mmol) in THF (100 ml) while cooling in an ice-bath, and the mixture was stirred for 20 minutes. To which a solution of 3-(4-oxopentyl)-3H-benzoxazol-2-one (5.6 g, 25.6 mmol) in THF (10 ml) was gradually added dropwise. The resulting mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into ice water, and extracted with ethyl acetate twice. The extract was washed with water and brine, and dried over sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=3/1) to afford 3-(4-methyl-4-pentenyl)-3H-benzoxazol-2-one (3.4 g, yield 61%) as a colorless oil.

reactant | Potassium tert-butoxide | 31.2 mmol, 3.5 g | CC(C)([O-])C.[K+]
reactant | 3-(4-oxopentyl)-3H-benzoxazol-2-one | 25.6 mmol, 5.6 g | O=C(CCCN1C(OC2=C1C=CC=C2)=O)C | C12H13NO3
catalyst | methyltriphenylphosphonium bromide | 30.8 mmol, 11 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-(4-methyl-4-pentenyl)-3H-benzoxazol-2-one | 3.4 g, yield 61% | CC(CCCN1C(OC2=C1C=CC=C2)=O)=C | C13H15NO2
